US08865725B2
A solution of 6-(5-fluoro-6-methyl-pyridin-2-yl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (20 mg, 0.057 mmol) in a mixture of DMF (0.6 mL) and MeOH (0.6 mL) was hydrogenated in a H-cube reactor (1 mL/min, 30 mm Raney nickel cartridge, 80° C., full hydrogen mode, 1 cycle). The solvents were evaporated in vacuo and the crude product was purified by RP HPLC (C18 XBridge 19×100 5 um, gradient from 80% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 20% CH3CN to 0% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 100% ACN) to yield 6-(5-fluoro-6-methyl-pyridin-2-yl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (8.2 mg, 41% yield). 1H NMR (400 MHz, CDCl3) δ ppm 2.49 (d, J=3.0 Hz, 3H), 3.24 (t, J=6.7 Hz, 2H), 4.35 (t, J=6.7 Hz, 2H), 5.02 (s, 2H), 6.97 (br. t, J=7.4, 7.4 Hz, 1H), 7.00-7.05 (m, 2H), 7.27-7.33 (m, 2H), 7.39 (t, J=8.6 Hz, 1H), 7.59 (s, 1H), 7.65 (dd, J=8.8, 3.2 Hz, 1H).

reactant | 6-(5-fluoro-6-methyl-pyridin-2-yl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 0.057 mmol, 20 mg | FC=1C=CC(=NC1C)N1C(N2C(C=C1)=NC(=C2)COC2=CC=CC=C2)=O | C19H15FN4O2
reactant | hydrogen | [H][H] | H2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 0.6 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 6-(5-fluoro-6-methyl-pyridin-2-yl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 8.2 mg, 41% yield | FC=1C=CC(=NC1C)N1C(N2C(CC1)=NC(=C2)COC2=CC=CC=C2)=O | C19H17FN4O2
